US05780500
a) 2-Phenoxy-4-trifluoromethyl-benzaldehyde
Preparation analogous to Example 12 from 2-fluoro-4-trifluoromethyl-benzaldehyde and phenol. Yield: 78%, light-coloured crystals, crystallised from hexane; melting point: 57°-59° C.; TLC (silica gel; ethyl acetate/hexane=1:1; UV): Rf =0.71; 1H-NMR (CDCl3, 200 MHz): 7.08-7.50 (m, 7H): 8.05 (d, 1H) 10.60 (s, 1H). MS: 266/265 (M+), 217, 188.

reactant | 2-fluoro-4-trifluoromethyl-benzaldehyde | FC1=C(C=O)C=CC(=C1)C(F)(F)F | C8H4F4O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 2-Phenoxy-4-trifluoromethyl-benzaldehyde | Yield: 78% | O(C1=CC=CC=C1)C1=C(C=O)C=CC(=C1)C(F)(F)F | C14H9F3O2
